US05696299
To the distillation residue were added 270 g of n-tetradecanol, 450 ml of hexane, and 10 g of Lipase OF. After regulating the particle size of the lipase by ultrasonication in the same manner as above, the mixture was stirred at 50° C. and 350 rpm for 72 hours to carry out interesterification. Hexane was evaporated under reduced pressure from the reaction mixture, and the residue was subjected to simple distillation at 90° C. and 3 mmHg to give highly pure (R)-(+)-1-phenylethanol in a free form (yield: 87%; chemical purity: 100%; optical purity: 100% ee).

reactant | n-tetradecanol | 270 g | C(CCCCCCCCCCCCC)O | C14H30O
reactant | hexane | 450 ml | CCCCCC | C6H14
product | (R)-(+)-1-phenylethanol | yield: 87% | C1(=CC=CC=C1)[C@@H](C)O | C8H10O
